US09108948B2
(1S,2S)-[2-(4-Bromophenyl)cyclopropyl]methanol
A solution of DME (24.39 mL, 235 mmol) in DCM (700 mL) under nitrogen atmosphere was cooled to −10° C., and diethylzinc (235 mL, 1M in hexane, 235 mmol) was added over 5-10 minutes followed by diiodomethane (37.9 mL, 469 mmol). The product from Example 34C (33.0 g, 122 mmol) in 100 mL DCM was added in 5-10 minutes. The temperature was maintained from −5° to −10° C. throughout the additions. The product from Example 34A, (E)-3-(4-bromophenyl)prop-2-en-1-ol (20 g, 94 mmol) in DCM (150 mL) was added dropwise, and the reaction mixture was stirred at ambient temperature for 16 hours. It was quenched with saturated aqueous NH4Cl (300 mL), HCl (1N, 480 mL) and diluted with ether (900 mL). The organic layer was separated. The aqueous layer was extracted with additional ether. The organic layers were combined and treated with NaOH (2N, 880 mL). To the solution, H2O2 (30%, 136 mL) was added dropwise while the reaction was cooled with an ice bath. The solution was stirred for 5-10 minutes. The organic layer was separated, washed with HCl (1N), saturated aqueous Na2S2O3, saturated aqueous NaHCO3, and brine, dried and concentrated. The residue was chromatographed on silica gel eluting with 5-15% EtOAc/Hexane to provide the title compound. 1H NMR (300 MHz, CDCl3): δ 0.92-1.0 (m, 2H), 1.45-1.48 (m, 2H), 1.76-1.85 (m, 1H), 3.61 (d, J=7.5 Hz, 2H), 6.95 (d, J=9 Hz, 2H), 7.37 (d, J=9 Hz, 2H). MS (DCl—NH3) m/z 228 (M+H)+. (ee 94%).

reactant | DME | 235 mmol, 24.39 mL | COCCOC | C4H10O2
reactant | diethylzinc | 235 mmol, 1M, 235 mL | C(C)[Zn]CC
reactant | diiodomethane | 469 mmol, 37.9 mL | ICI | CH2I2
reactant | (E)-3-(4-bromophenyl)prop-2-en-1-ol | 94 mmol, 20 g | BrC1=CC=C(C=C1)/C=C/CO | C9H9BrO
solvent | DCM | 700 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | (1S,2S)-[2-(4-Bromophenyl)cyclopropyl]methanol | BrC1=CC=C(C=C1)[C@@H]1[C@H](C1)CO | C10H11BrO
